US09216999B2
rac-1-[(3R,4R)-4-methylpiperidin-3-yl]-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one hydrochloride (18 mg, 0.057 mmol) and 2,3-difluorobenzaldehyde (10 mg, 0.070 mmol) in a mixture of methanol (1 mL)/acetic acid (1 mL) was stirred with 2-picoline borane (10 mg, 0.094 mmol) at room temperature for one day. After addition of saturated aqueous sodium hydrogen carbonate and 1 M aqueous sodium hydroxide, the reaction mixture was extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel thin layer chromatography (chloroform/methanol=20/1 (v/v)) to give rac-1-[(3R,4R)-1-(2,3-difluorobenzyl)-4-methylpiperidin-3-yl]-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one (less polar fraction: 6.1 mg, yield 26%) as a pale yellow solid and rac-1-[(3R,4R)-1,4-dimethylpiperidin-3-yl]-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one (more polar fraction: 5.9 mg, yield 35%) as a colorless oil.

reactant | rac-1-[(3R,4R)-4-methylpiperidin-3-yl]-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one hydrochloride | 0.057 mmol, 18 mg | Cl.C[C@H]1[C@H](CNCC1)N1C=CC(C2=CN=C3C(=C12)C=CN3)=O
reactant | 2,3-difluorobenzaldehyde | 0.070 mmol, 10 mg | FC1=C(C=O)C=CC=C1F | C7H4F2O
reactant | 2-picoline borane | 0.094 mmol, 10 mg | B.N1=C(C=CC=C1)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | rac-1-[(3R,4R)-1-(2,3-difluorobenzyl)-4-methylpiperidin-3-yl]-1H-pyrrolo[2,3-h][1,6]naphthyridin-4(7H)-one | yield 26% | FC1=C(CN2C[C@@H]([C@@H](CC2)C)N2C=CC(C3=CN=C4C(=C23)C=CN4)=O)C=CC=C1F | C23H22F2N4O
